US06989399B2
4-Chloro-N-(2,5-dichlorophenyl)-N-(1R)-(2-hydroxy-1-methylpentyl)benzenesulfonamide (Isomer A)
A suspension of 4-chloro-N-(2,5-dichlorophenyl)-N-(1R)(2-hydroxy-1-methylpent-4-enyl)benzenesulfonamide (150 mg, 0.3 mmol) and sulfided platinum (5 wt. % on carbon, 50 mg) in EtOH (50 mL) was hydrogenated at 45 psi for 3 h. The suspension was filtered through celite and concentrated in vacuo. Silica gel chromatography (10% EtOAc/hexanes) of the concentrate afforded the title compound as a clear wax (120 mg, 80% yield): MS (ESI): (M−H)−436.34; [α]D=−15.3° (c 1.00, MeOH), 1H NMR (DMSO-d6) δ 7.81 (d, 2H, J=7.0 Hz), 7.60 (d, 2H,) J=7.0 Hz), 7.50 (s, br, 1H), 7.41 (d, 2H, J=8.0 Hz), 7.32 (m, 2H), 7.24 (m, 1H), 7.18 (s, br, 1H), 4.76 (dd, 2H, J=50 Hz, 15 Hz), 4.36 (t, 1H, J=7.0 Hz), 3.33 (s, 3H), 1.20–1.34 (m, 3H), 0.79 (d, 3H, J=6.0 Hz), 0.46 (d, 3H, J=6.0 Hz).

reactant | 4-chloro-N-(2,5-dichlorophenyl)-N-(1R)(2-hydroxy-1-methylpent-4-enyl)benzenesulfonamide | 0.3 mmol, 150 mg | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H](C(CC=C)O)C)C1=C(C=CC(=C1)Cl)Cl | C18H18Cl3NO3S
solvent | EtOH | 50 mL | CCO | C2H6O
catalyst | platinum | 50 mg | [Pt] | Pt
product | 4-Chloro-N-(2,5-dichlorophenyl)-N-(1R)-(2-hydroxy-1-methylpentyl)benzenesulfonamide | 80% yield | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H](C(CCC)O)C)C1=C(C=CC(=C1)Cl)Cl | C18H20Cl3NO3S
